US09260416B2
Step 3: 2-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-isonicotinic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 2-(2-oxo-propylsulfanyl)-isonicotinic acid methyl ester and (3-chloro-phenyl)-hydrazine hydrochloride.

reactant | 2-(2-oxo-propylsulfanyl)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)SCC(C)=O)=O | C10H11NO3S
reactant | (3-chloro-phenyl)-hydrazine hydrochloride | Cl.ClC=1C=C(C=CC1)NN
product | 2-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)SC1=C(NC2=CC(=CC=C12)Cl)C)=O | C16H13ClN2O2S
